US05521170
To a solution of 2-(1-pyrrolyl)benzoic acid (206 mg), diphenyl chlorophosphate (325 mg), 1-(4-aminobenzoyl}-1,2,3,4-tetrahydroquinoline (277 mg) in tetrahydrofuran (10 ml) was added triethylamine (333 mg) at 0° C. The resulting mixture was allowed to warm to ambient temperature where it was maintained for 5 hours. The solvent was evaporated and diluted with ethyl acetate and washed with water, saturated sodium bicarbonate aqueous solution and brine. The organic layer was dried over sodium sulfate and concentrated to give 1-{4-[2-(1-pyrrolyl)benzoylamino]benzoyl}-1,2,3,4tetrahydroquinoline (280 mg).

reactant | 2-(1-pyrrolyl)benzoic acid | 206 mg | N1(C=CC=C1)C1=C(C(=O)O)C=CC=C1 | C11H9NO2
reactant | diphenyl chlorophosphate | 325 mg | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | 1-(4-aminobenzoyl}-1,2,3,4-tetrahydroquinoline | 277 mg | NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H16N2O
reactant | triethylamine | 333 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{4-[2-(1-pyrrolyl)benzoylamino]benzoyl}-1,2,3,4tetrahydroquinoline | 280 mg | N1(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C27H23N3O2
